US05665777
To a solution in THF of 4-phenylphenol (1.86 g, 10.9 mmol) was added potassium tert-butoxide (1.22 g, 10.9 mmol). Neat β-propiolactone (0.68 mL, 10.9 mmol) was added dropwise. The resulting white suspension was stirred overnight at ambient temperature and then was concentrated in vacuo. The residue was partitioned between ethyl acetate and saturated aqueous NaHCO3. The organic phase was discarded and the aqueous phase was acidified and extracted twice with ethyl acetate. The ethyl acetate extracts were combined, dried over MgSO4, filtered, and concentrated in vacuo to give 3-(4-phenylphenoxy)propionic acid (0.86 g) as a white solid.

reactant | 4-phenylphenol | 10.9 mmol, 1.86 g | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | potassium tert-butoxide | 10.9 mmol, 1.22 g | CC(C)([O-])C.[K+]
reactant | β-propiolactone | 10.9 mmol, 0.68 mL | C1(CCO1)=O | C3H4O2
solvent | THF | C1CCOC1 | C4H8O
product | 3-(4-phenylphenoxy)propionic acid | 0.86 g | C1(=CC=CC=C1)C1=CC=C(OCCC(=O)O)C=C1 | C15H14O3
